US08383652B2
1.7 mL (1.7 mmol) of aqueous 1 N sodium hydroxide solution are added to a solution of 0.5 g (1.1 mmol) of methyl (Z)-2-methoxy-3-[3′-(1-methyl-3-phenethylureido)biphenyl-4-yl]acrylate in 10 mL of tetrahydrofuran. The reaction medium is heated at 68° C. and stirred for 4 hours. The reaction medium is acidified with 2 mL of 1 N acetic acid solution and extracted with ethyl acetate. The organic phase is washed with water, dried over magnesium sulfate, filtered and evaporated. The residue obtained is recrystallized from hot ethyl acetate. 500 mg (71%) of (Z)-2-methoxy-3-[3′-(1-methyl-3-phenethylureido)biphenyl-4-yl]acrylic acid are obtained in the form of a white solid with a melting point of 144° C.

reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | methyl (Z)-2-methoxy-3-[3′-(1-methyl-3-phenethylureido)biphenyl-4-yl]acrylate | 1.1 mmol, 0.5 g | CO\C(\C(=O)OC)=C/C1=CC=C(C=C1)C1=CC(=CC=C1)N(C(=O)NCCC1=CC=CC=C1)C | C27H28N2O4
reactant | acetic acid | 1 N, 2 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (Z)-2-methoxy-3-[3′-(1-methyl-3-phenethylureido)biphenyl-4-yl]acrylic acid | 500 mg, 71% | CO\C(\C(=O)O)=C/C1=CC=C(C=C1)C1=CC(=CC=C1)N(C(=O)NCCC1=CC=CC=C1)C | C26H26N2O4
